US09079916B2
A mixture of 5-methylisocytosine (3 g, 24.0 mmol) and POCl3 (20 mL) was refluxed for 45 minutes. Excess of POCl3 was removed under reduced pressure and the residue was poured over ice. The resulting mixture was made basic with ammonia at 10° C. The precipitate was filtrated and crystallized from ethanol to give 4-chloro-2-amino-5-methylpyrimidine (1 g 29.0% yield). 1H NMR (400 MHz, DMSO): δ 8.11 (s, 1 H), 6.81 (br s, 2 H), 2.04 (s, 3 H).

reactant | 5-methylisocytosine | 24.0 mmol, 3 g | CC1=CN=C(NC1=O)N | C5H7N3O
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-chloro-2-amino-5-methylpyrimidine | 1 g, 29.0% yield | ClC1=NC(=NC=C1C)N | C5H6ClN3
